US03998958
The fluoroborate salt of 1-benzyl-2-iminopyrrolidine (6.55 g.; 0.025 mole) is converted to free base (4.36 g.; 0.025 mole -- assuming 100% conversion) by adding 5 ml. of 50% NaOH to an aqueous slurry of the salt and benzene extraction. After drying over K2CO3, the benzene solution is filtered through diatomaceous earth and 3.84 g. (0.025 mole) of m-chlorophenylisocyanate, dissolved in anhydrous benzene, is added. The reaction mixture is stirred at room temperature for 2 hours and then taken to dryness in vacuo to give an oily residue which eventually crystallizes. Recrystallizations from acetonepetroleum ether affords a pure product, 1-(1-benzyl-2 -pyrrolidylidene)-3-(m-chlorophenyl)urea, m.p. = 91°-93° C.

reactant | fluoroborate | F[B-](F)(F)F
reactant | 1-benzyl-2-iminopyrrolidine | 0.025 mole, 6.55 g | C(C1=CC=CC=C1)N1C(CCC1)=N | C11H14N2
reactant | m-chlorophenylisocyanate | 0.025 mole | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(1-benzyl-2 -pyrrolidylidene)-3-(m-chlorophenyl)urea | C(C1=CC=CC=C1)N1C(CCC1)=NC(=O)NC1=CC(=CC=C1)Cl | C18H18ClN3O
